US09079904B2
(A) Preparation of 3-(5-methyl-1H-indol-3-yl)pyrrolidine-2,5-dione
5-Methyl indole (10 g, 76 mmol) and maleimide (7.4 g, 76 mmol) in 77 mL of glacial acetic acid was heated at 90° C. for 24 h. The reaction mixture was cooled to RT, and the acetic acid was evaporated under reduced pressure. The residue was suspended in diethyl ether and filtered to obtain solid product (7 g).

reactant | 5-Methyl indole | 76 mmol, 10 g | CC=1C=C2C=CNC2=CC1 | C9H9N
reactant | maleimide | 76 mmol, 7.4 g | C1(C=CC(N1)=O)=O | C4H3NO2
solvent | acetic acid | 77 mL | C(C)(=O)O | C2H4O2
product | 3-(5-methyl-1H-indol-3-yl)pyrrolidine-2,5-dione | 7 g | CC=1C=C2C(=CNC2=CC1)C1C(NC(C1)=O)=O | C13H12N2O2
